US07635715B2
Step C: Preparation of 2-(3-Chlorophenyl)-2-methylpropanoyl chloride
2-(3-Chlorophenyl)-2-methylpropanoic acid (5.7 g, 28.7 mmol) was stirred in thionyl chloride (100 mL) for 2 hours at reflux. The thionyl chloride was removed under vacuum to give the product (5.69 g).

reactant | 2-(3-Chlorophenyl)-2-methylpropanoic acid | 28.7 mmol, 5.7 g | ClC=1C=C(C=CC1)C(C(=O)O)(C)C | C10H11ClO2
reactant | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(3-Chlorophenyl)-2-methylpropanoyl chloride | 5.69 g | ClC=1C=C(C=CC1)C(C(=O)Cl)(C)C | C10H10Cl2O
